Mayur Ware | 19D070070
*EE236 | Lab 4
*I-V Characteristics of Solar Cell
*Including Solar cell model file
.include Solar_Cell.txt

*Netlist 
Vin In GND dc 0.01    ;Input
Vx 1 2 dc 0           ;Dummy voltage source
R1 In 1 100           ;Resistor
X1 2 GND solar_cell IL_val=0e-3   ;IL = 0A
*.temp 35             ;Temperature
*.temp 45              ;Temperature
*.temp 55             ;Temperature
*.temp 65             ;Temperature
.temp 75             ;Temperature

*DC Analysis
.dc Vin -2 2 0.01
.control
run
set color0 = white
set color1 = black
set color2 = blue
set color3 = red
set xbrushwidth = 2
plot I(Vx) vs V(2)   ;Id vs Vd plot
.endc
.en
